US04089960
5.02 g (0.025 mole) of crude 2-methoxy-6-chloronicotinoyl chloride are dissolved in 75 ml of absolute chloroform and the solution is added dropwise in the course of 30 minutes at 25°-30° C to a solution of 7.7 g (0.06 mole) of 1-ethyl-2-(aminomethyl)-pyrrolidine in 75 ml of absolute benzene. The reaction mixture is stirred for 3 hours at 50° C, cooled, and 10 ml of a 5 N ethanolic ammonia solution are added thereto. The organic solvents are evaporated in vacuo and the residual crude base is chromatographed through a column of basic silica gel with benzene which contains 0.5% of methanol. Pure N-[(1-ethyl-2-pyrrolidinyl)-methyl]-2-methoxy-6-chloronicotinamide is obtained as an oil.

reactant | 2-methoxy-6-chloronicotinoyl chloride | 0.025 mole, 5.02 g | COC1=C(C(=O)Cl)C=CC(=N1)Cl | C7H5Cl2NO2
reactant | 1-ethyl-2-(aminomethyl)-pyrrolidine | 0.06 mole, 7.7 g | C(C)N1C(CCC1)CN | C7H16N2
reactant | ammonia | 5 N | N | H3N
solvent | chloroform | 75 ml | C(Cl)(Cl)Cl | CHCl3
solvent | benzene | 75 ml | C1=CC=CC=C1 | C6H6
product | N-[(1-ethyl-2-pyrrolidinyl)-methyl]-2-methoxy-6-chloronicotinamide | C(C)N1C(CCC1)CNC(C1=C(N=C(C=C1)Cl)OC)=O | C14H20ClN3O2
